US08003653B2
Ethyl (2E,4S)-4-[(tert-butoxycarbonyl)amino]-5-phenylpent-2-enoate
A solution of (S)-(−)-2-(tert-butoxycarbonylamino)-3-phenylpropanal (6.87 g, 27.56 mmol) and (carbethoxymethylene)triphenylphosphine (9.60 g, 27.56 mmol) in toluene (150 mL) was stirred and heated to 80° C. for 70 min. The product was isolated by flash column chromatography on silica gel using a gradient elution of 5-25% EtOAc/hexanes. Collection and concentration of the appropriate fractions yielded the compound as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.33-7.22 (m, 3H), 7.19-7.17 (m, 2H), 6.92 (dd, J=4.8, 15.6 Hz, 1H), 5.86 (dd, J=1.6, 15.6 Hz, 1H), 4.62 (br s, 1H), 4.52 (br s, 1H), 4.19 (q, J=7.2, 14.0 Hz, 2H), 2.95-2.90 (m, 2H), 1.40 (s, 9H), 1.30-1.25 (m, 3H); ES MS [M-100 (loss of BOC)+1]=220.

reactant | (S)-(−)-2-(tert-butoxycarbonylamino)-3-phenylpropanal | 27.56 mmol, 6.87 g | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1=CC=CC=C1 | C14H19NO3
reactant | (carbethoxymethylene)triphenylphosphine | 27.56 mmol, 9.60 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl (2E,4S)-4-[(tert-butoxycarbonyl)amino]-5-phenylpent-2-enoate | C(C)(C)(C)OC(=O)N[C@H](/C=C/C(=O)OCC)CC1=CC=CC=C1 | C18H25NO4
